US06037097
Synthesis of 1-ethoxycyclohexene
The synthesis was the same as in Example 1 except that about 50 mg of p-toluene sulfonic acid and 50 ml diethoxycyclohexane (from Lancaster) were employed. Under vacuum overnight at about 90° C., some small amount of distilled liquid was discarded, then the temperature was raised up to 120°-130° C. and the 1-ethoxycyclohexene was collected through distillation.

reactant | p-toluene sulfonic acid | about 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethoxycyclohexane | 50 ml | C(C)OC1(CCCCC1)OCC | C10H20O2
product | 1-ethoxycyclohexene | C(C)OC1=CCCCC1 | C8H14O
